US04518597
6-(4-Benzylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and benzylmercaptan.

reactant | 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C14H18ClNO3
reactant | benzylmercaptan | C(C1=CC=CC=C1)S | C7H8S
product | 6-(4-Benzylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C(C1=CC=CC=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C21H25NO3S
